US05102667
A suspension of (2-methoxyphenyl)acetamide (0.9 g) in dry dichloromethane (3 cc) is treated with triethyloxonium tetrafluoborate (1.14 g) and the solution obtained is stirred for 20 hours at 25° C. After cooling to 0° C., a solution of 7,7-bis-(3-fluorophenyl)-4-perhydroisoindolone hydrochloride (1.5 g) and triethylamine (1.4 cc) in dichloromethane (9 cc) is added to the reaction mixture. The reaction mixture is stirred for 30 minutes at 25° C., then refluxed for 5 hours and finally stirred for a further 16 hours at 25° C. Saturated potassium carbonate solution (50 cc) is added, the mixture is stirred and filtered and the organic phase is washed with water (2×50 cc). After drying over magnesium sulphate and filtering and concentrating the filtrate to dryness under reduced pressure (2.7 kPa), the residue is chromatographed on an alumina column (diameter 2.6 cm, height 24 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of 1,2-dichloroethane and methanol (95/5 by volume) and collecting 15 cc fractions. Fractions 7 to 25 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-7,7-bis-(3-fluorophenyl)-2-[1-imino-2-(2-methoxyphenyl)ethyl]-4-perhydroisoindolone (0.54 g) in the form of a pale yellow meringue.

reactant | (2-methoxyphenyl)acetamide | 0.9 g | COC1=C(C=CC=C1)CC(=O)N | C9H11NO2
reactant | triethyloxonium | 1.14 g | C(C)[O+](CC)CC
reactant | 7,7-bis-(3-fluorophenyl)-4-perhydroisoindolone hydrochloride | 1.5 g | Cl.FC=1C=C(C=CC1)C1(CCC(C2CNCC12)=O)C1=CC(=CC=C1)F
reactant | potassium carbonate | 50 cc | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 3 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 9 cc | ClCCl | CH2Cl2
solvent | triethylamine | 1.4 cc | C(C)N(CC)CC | C6H15N
product | (3aRS,7aRS)-7,7-bis-(3-fluorophenyl)-2-[1-imino-2-(2-methoxyphenyl)ethyl]-4-perhydroisoindolone | 0.54 g | FC=1C=C(C=CC1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=N)=O)C1=CC(=CC=C1)F | C29H28F2N2O2
